US04686217
Diethyl 1,4-dihydro-2-(imino(methylthio)methyl)-6-methyl-4-(3-nitrophenyl)-3,5-pyridinedicarboxylate hydroiodide
Methyl iodide (0.06 ml, 0.96 mmoles) was added to a solution of diethyl 2-(aminothioxomethyl)-1,4-dihydro- 6-methyl-4-(3-nitrophenyl)-3,5-pyridinedicarboxylate (0.2 g, 0.48 mmoles) in methanol (10 ml). After stirring for 16 hours at room temperature methyl iodide (0.1 ml) was added and the stirring continued for 1 day. The solvent was evaporated and the residue crystallised on addition of ether. The hydroscopic solid was filtered and dried in vacuo to give the title compound (0.17 g). Nmr (CDCl3) δ 5.9 (s,H), 2.9 (s,SMe).

reactant | Methyl iodide | 0.96 mmoles, 0.06 ml | CI | CH3I
reactant | diethyl 2-(aminothioxomethyl)-1,4-dihydro- 6-methyl-4-(3-nitrophenyl)-3,5-pyridinedicarboxylate | 0.48 mmoles, 0.2 g | NC(C=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C)=S | C19H21N3O6S
reactant | methyl iodide | 0.1 ml | CI | CH3I
solvent | methanol | 10 ml | CO | CH4O
product | Diethyl 1,4-dihydro-2-(imino(methylthio)methyl)-6-methyl-4-(3-nitrophenyl)-3,5-pyridinedicarboxylate hydroiodide | 0.17 g | I.N=C(C=1NC(=C(C(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OCC)C)SC | InChI=1S/C20H23N3O6S.HI/c1-5-28-19(24)14-11(3)22-17(18(21)30-4)16(20(25)29-6-2)15(14)12-8-7-9-13(10-12)23(26)27;/h7-10,15,21-22H,5-6H2,1-4H3;1H
